### PR TITLE
Proved equivalence of (sutt eq) and trace_incl

### PR DESCRIPTION
**Pull request by Grain**

### CODE REVIEW

File: theories/Trace.v [hunk 1]
```diff
@@ -110,8 +114,42 @@ Lemma is_trace_unalltaus_add: forall {E R} (t1 t2 : itree E R) tr r,
...
+  sutt_ eq r t1 t2.
+Proof.
+  intros. destruct REL. constructor.
+  - intros. apply FIN in H. simpobs. rewrite <- finite_taus_tau. auto.
+  - intros. eapply EQV; eauto. rewrite <- OBS. inversion UNTAUS2. constructor; auto.
+    econstructor; eauto.
+Qed.
+
+Lemma sutt_trace_incl : forall {E R} (t1 t2 : itree E R),
+    sutt eq t1 t2 -> trace_incl t1 t2.
```
Comment (gmalecha) [inline theories/Trace.v]: Does this imply that `eutt eq a b -> trace_eq a b`?

Comment (Grain) [reply theories/Trace.v]: Yes, see `eutt_trace_eq` below.
